US05814651
Methyl 1-[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]-1H-indole-3-carboxylate
A mixture of (1.0 g, 5.71 mmol, 1.0 eq) 3-carbomethoxy indole, (2.21 g, 7.42 mmol, 1.3 eq) (±)-1-methoxy-2-exo-norbornyloxy-4-bromobenzene (30.7 mg, 0.107 mmol, 0.2 eq) cuprous bromide, and (866 mg, 6.27 mmol, 1.1 eq) potassium carbonate in 15 ml of 1-methyl-2-pyrrolidinone was heated to 150° C. for 24 hours. The reaction mixture was cooled, diluted with 350 ml of ethyl acetate and 350 ml of H2O, and the layers separated. The aqueous layer was extracted twice with ethyl acetate. The ethyl acetate extracts were combined, washed twice with H2O, once with brine, dried over Na2SO4 and concentrated in vacuo to give a light brown oil. Silica gel chromatography eluting with 20% ethyl acetatehexane gave 1.05 g, 47%, of a white foamy solid. M.P.: 120°-122° C. Elemental Analysis Calc'd for C24H25NO4 : Calc'd: C, 73.64; H, 6.44; N, 3.58. Found: C, 73.70; H, 6.37; N, 3.59.

reactant | 3-carbomethoxy indole | 5.71 mmol, 1.0 g, 1.0 eq | C(=O)(OC)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | potassium carbonate | 6.27 mmol, 866 mg, 1.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-2-pyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
solvent | H2O | 350 ml | O | H2O
product | Methyl 1-[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]-1H-indole-3-carboxylate | C12C(CC(CC1)C2)OC=2C=C(C=CC2OC)N2C=C(C1=CC=CC=C21)C(=O)OC | C24H25NO4
